US06605200B1
Synthesis of 1,1′-Dimethyl-2,2′-biimidazole:
To a stirred solution of 2,2′-biimidazole (Fieselmann, B. F., et al. Inorg. Chem. 17, 2078(1978)) (4.6 g, 34.3 mmoles) in 100 mL dry DMF in a 250 ml round bottom flask cooled in an ice/water bath was added in portions NaH(60% in mineral oil, 2.7 g, 68.6 mmoles). After the solution was stirred at 0° C. for one hour under N2, methyl toluenesulfonate (10.3 mL, 68.6 mmoles) was added in small portions using a syringe over 30 min. The stirring of the solution in the ice/water bath was continued for 1 h and then at room temperature for 3 h. The solvent was removed by vacuum distillation. The dark residue was triturated with ether and then suction filtered and dried under vacuum. The product was purified by sublimation. Yield: 80%.

reactant | 2,2′-biimidazole | 34.3 mmoles, 4.6 g | C1=CN=C(N1)C2=NC=CN2 | C6H6N4
reactant | NaH | 68.6 mmoles, 2.7 g | [H-].[Na+]
reactant | methyl toluenesulfonate | 68.6 mmoles, 10.3 mL | C=1(C(=CC=CC1)S(=O)(=O)OC)C | C8H10O3S
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1,1′-Dimethyl-2,2′-biimidazole | Yield: 80% | CN1C(=NC=C1)C=1N(C=CN1)C | C8H10N4
